US07538123B2
(4) 8-Allyl-7-methoxy-3-methyl-3,4-dihydro-2H-1,3-benzoxazin-2-one
0.66 g of 8-allyl-7-hydroxy-3-methyl-3,4-dihydro-2H-1,3-benzoxazin-2-one was dissolved in 6 ml of N,N-dimethylformamide. 0.63 g of potassium carbonate and 0.94 ml of methyl iodide were added to the above solution, and the obtained mixture was then stirred at room temperature overnight under nitrogen atmosphere. Thereafter, water and ethyl acetate were added to the reaction solution, so as to separate an organic layer. The obtained organic layer was washed with a sodium thiosulfate aqueous solution, water, and a saturated sodium chloride solution, and then dried over anhydrous magnesium sulfate. After removing the drying agent by filtration, the organic layer was concentrated under a reduced pressure. The residue was purified by silica gel column chromatography (hexane/ethyl acetate), so as to obtain 0.58 g of the subject compound.

reactant | 8-allyl-7-hydroxy-3-methyl-3,4-dihydro-2H-1,3-benzoxazin-2-one | 0.66 g | C(C=C)C1=C(C=CC=2CN(C(OC21)=O)C)O | C12H13NO3
reactant | potassium carbonate | 0.63 g | C([O-])([O-])=O.[K+].[K+]
reactant | methyl iodide | 0.94 ml | CI | CH3I
reactant | water | O | H2O
solvent | N,N-dimethylformamide | 6 ml | CN(C=O)C | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 8-Allyl-7-methoxy-3-methyl-3,4-dihydro-2H-1,3-benzoxazin-2-one | 0.58 g | C(C=C)C1=C(C=CC=2CN(C(OC21)=O)C)OC | C13H15NO3
